US07858640B2
{4-difluoromethoxy-2-ethyl-8-fluoro-3-[4-(pyrrolidine-1-carbonyl)benzyl]quinolin-5-yloxy}acetic Acid Methyl Ester
A mixture of {2-ethyl-8-fluoro-4-oxo-3-[4-(pyrrolidine-1-carbonyl)benzyl]-1,4-dihydroquinolin-5-yloxy}acetic acid methyl ester (0.25 g), N,N-dimethylformamide (5.0 mL), potassium carbonate (0.22 g) and acetic acid chlorodifluoromethyl ester (0.28 mL) was stirred at 80° C. for 17 hours. The mixture was cooled to room temperature, diluted with water and extracted with ethyl acetate. The combined extracts were dried over magnesium sulfate and the solvent removed under reduced pressure. Purification of the residue by column chromatography on silica gel, eluting with a mixture of cyclohexane and dichloromethane (1:1 by volume) gave title compound, 0.14 g.

reactant | {2-ethyl-8-fluoro-4-oxo-3-[4-(pyrrolidine-1-carbonyl)benzyl]-1,4-dihydroquinolin-5-yloxy}acetic acid methyl ester | 0.25 g | COC(COC1=C2C(C(=C(NC2=C(C=C1)F)CC)CC1=CC=C(C=C1)C(=O)N1CCCC1)=O)=O | C26H27FN2O5
reactant | N,N-dimethylformamide | 5.0 mL | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 0.22 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetic acid chlorodifluoromethyl ester | 0.28 mL | ClC(F)(F)OC(C)=O | C3H3ClF2O2
solvent | water | O | H2O
product | {4-difluoromethoxy-2-ethyl-8-fluoro-3-[4-(pyrrolidine-1-carbonyl)benzyl]quinolin-5-yloxy}acetic Acid Methyl Ester | COC(COC1=C2C(=C(C(=NC2=C(C=C1)F)CC)CC1=CC=C(C=C1)C(=O)N1CCCC1)OC(F)F)=O | C27H27F3N2O5
